US08357679B2
B: Methyl 1-(4-(3-(cyclopropylmethyl)ureido)benzoyl)-4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylate
4-(3-(Cyclopropylmethyl)ureido)benzoic acid (0.213 mmol, 0.05 g), methyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylate (0.213 mmol, 0.085 g) and triethylamine (0.640 mmol, 0.089 mL, 0.065 g) were combined and stirred in dichloromethane. 1-Propanephosphonic acid cyclic anhydride (0.320 mmol, 0.191 mL, 0.204 g) was added and the reaction stirred for 2 hours at room temperature. This was washed with water and the resulting residue purified by acidic prep HPLC to afford the title compound (45 mg). MS (ESI) m/z 617.2 [M+H]+

reactant | 4-(3-(Cyclopropylmethyl)ureido)benzoic acid | 0.213 mmol, 0.05 g | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | methyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylate | 0.213 mmol, 0.085 g | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CC(NCC2)C(=O)OC)C=C1)(F)F | C16H18F6N2O3
reactant | triethylamine | 0.640 mmol, 0.089 mL, 0.065 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.320 mmol, 0.191 mL, 0.204 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 1-(4-(3-(cyclopropylmethyl)ureido)benzoyl)-4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-2-carboxylate | 45 mg | C1(CC1)CNC(NC1=CC=C(C(=O)N2C(CN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OC)C=C1)=O | C28H30F6N4O5
